datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5]([C:6](=[S:7])[H:11])([H:8])([H:9])[H:10]>>[C:0](#[C:1][C:2](=[S:3])[H:8])[H:4].[C:5]([C:6](=[S:7])[H:11])([H:9])[H:10],67.7808
[C:0](#[C:1][S:2][H:4])[H:3].[C:5]([C:6]([c:7]1[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]1[H:21])[H:16])([H:13])([H:14])[H:15]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:6]([C:5]([H:13])([H:14])[H:15])([c:7]1[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]1[H:21])[H:16],-10.46
[C:0]([H:1])[H:2].[C:3](=[C:4]([H:6])[H:7])[H:5]>>[C:0]([H:1])([H:2])[H:6].[C:3](#[C:4][H:7])[H:5],0.0
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[C:14]([C:13]([H:16])([H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19])([H:5])[H:6],17.0707
[O:0]([H:1])[H:2].[S:3]=[C:4]([c:5]1[c:6]([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]1[H:16])[H:11]>>[O:0]([H:2])[C:4]([S:3][H:1])([c:5]1[c:6]([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]1[H:16])[H:11],122.173
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])([S:15][H:23])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:19])[H:5].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[S:15][H:23])([H:16])([H:17])[H:18],31.631
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]=[O:7])([H:8])([H:9])[H:10]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:6]([C:5]([H:8])([H:9])[H:10])=[O:7],155.826
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28])([H:18])([H:19])[H:20]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:10]([C:9]([H:18])([H:19])[H:20])([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28],104.307
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([C:5]([C:6](=[C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:21])[H:20])([H:18])[H:19])[H:17])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])=[C:7]([H:21])[C:8]1([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:13])([H:11])[H:12],115.939
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([H:12])([H:13])[H:14])=[C:6]([C:7]([H:16])([H:17])[H:18])[H:15])([H:10])[H:11])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]1([C:7]([H:16])([H:17])[H:18])[H:15])[H:8],150.122
[C:0](=[S:1])[H:2].[c:3]1([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]1[H:14]>>[C:0](=[S:1])([H:2])[H:9].[c:3]1[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]1[H:14],82.0064
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])=[C:6]([C:7]([H:20])([H:21])[H:22])[H:19])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]([C:5]([H:16])([H:17])[H:18])[C:6]1([C:7]([H:20])([H:21])[H:22])[H:19],39.3296
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:14])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[H:15])[H:13])([H:11])[H:12],38.9112
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19])[H:15])[H:14])([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])=[C:4]([H:15])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19],130.666
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10].[O:27][H:28]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10].[H:24][O:27][H:28],2.204968
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8](=[C:9]([S:10][H:14])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:13])[H:5].[C:8](=[C:9][S:10][H:14])([H:11])[H:12],61.5048
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24]([c:25]1[c:26]([H:33])[c:27]([H:34])[c:28]([H:35])[c:29]([H:36])[c:30]1[H:37])([H:31])[H:32]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:24]([c:25]1[c:26]([H:33])[c:27]([H:34])[c:28]([H:35])[c:29]([H:36])[c:30]1[H:37])([H:31])[H:32])[H:12],43.3462
